US06645990B2
1-(2-Pyridin-4-yl-thiazol-4-yl)-3-[6-(pyrrolidin-3-ylmethoxy)-pyridin-2-yl]-urea
To a slurry of tert-butyl 3-{6-[3-(2-pyridin-4-yl-thiazol-4-yl)-ureido]-pyridin-2-yloxymethyl}-pyrrolidine-1-carboxylate (1.291 g, 2.603 mmol) in CH2Cl2 (25 mL) was added TFA (5 mL) under N2. The reaction mixture was heated to reflux for 3 h, then cooled to rt. Saturated NaHCO3 solution (40 mL) was added and the precipitate was washed with EtOAc (3×40 mL) and H2O (2×10 mL), filtered and dried under high vacuum to give a white solid. MS m/z: 397.0 (M+H). Calc'd. for C19H21N6O2S-397.1.

reactant | tert-butyl 3-{6-[3-(2-pyridin-4-yl-thiazol-4-yl)-ureido]-pyridin-2-yloxymethyl}-pyrrolidine-1-carboxylate | 2.603 mmol, 1.291 g | N1=CC=C(C=C1)C=1SC=C(N1)NC(NC1=CC=CC(=N1)OCC1CN(CC1)C(=O)OC(C)(C)C)=O | C24H28N6O4S
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | 40 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-Pyridin-4-yl-thiazol-4-yl)-3-[6-(pyrrolidin-3-ylmethoxy)-pyridin-2-yl]-urea | N1=CC=C(C=C1)C=1SC=C(N1)NC(=O)NC1=NC(=CC=C1)OCC1CNCC1 | C19H20N6O2S
